US06465493B1
Example 26: 4-(5-Benzo[1,3]dioxol-5-yl-4-pyridin-2-yl-oxazol-2-yl)benzonitrile
N-(2-Benzo[1,3]dioxol-5-yl-2-oxo-1-pyridin-2-yl-ethyl)4-cyano-benzamide (0.1 g, 0.26 mmol) was dissolved in neat thionyl chloride (10 ml) and heated at reflux temperature for 2 hours. The cooled solution was cautiously added dropwise to a concentrated sodium hydroxide-ice mixture. The crude product was extracted into dichloromethane and purified using hexane-ethylacetate (1:1) as eluent to give the title compound (9 mg, 9%). 1H NMR (CDCl3) δ: 6.06 (2H, s), 6.84-6.99 (2H, m), 7.27-7.31 (1H, m), 7.86 (2H, d, J=7 Hz), 8.00 (2H, d, J=7 Hz), 8.04 (1H, s), 8.23 (1H, dd, J=7 and 1 Hz), 8.42 (1H, d, J=7 Hz), 8.65 (1H, dd, J=7 and 1 Hz); m/z (API) 368 (M+H+).

reactant | N-(2-Benzo[1,3]dioxol-5-yl-2-oxo-1-pyridin-2-yl-ethyl)4-cyano-benzamide | 0.26 mmol, 0.1 g | O1COC2=C1C=CC(=C2)C(C(C2=NC=CC=C2)NC(C2=CC=C(C=C2)C#N)=O)=O | C22H15N3O4
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-(5-Benzo[1,3]dioxol-5-yl-4-pyridin-2-yl-oxazol-2-yl)benzonitrile | 9 mg, 9% | O1COC2=C1C=CC(=C2)C2=C(N=C(O2)C2=CC=C(C#N)C=C2)C2=NC=CC=C2 | C22H13N3O3
